US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-4-methoxybenzamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and p-anisoyl chloride in a similar manner as described above to give a white solid (11% yield). 1H-NMR (DMSO-de): 810.99 (s, 1H), 8.70 (d, 1H), 7.96 (d, 2H), 7.60 (d, 1H), 7.29 (d, 1H), 7.16 (dd, 1H), 7.02 (d, 2H), 5.38 (m, 1H), 2.67 (m, 2H), 2.08 (m, 2H), 1.87 (m, 2H); MS m/z 399 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | p-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-4-methoxybenzamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=CC=C(C=C1)OC)=O | C20H19BrN2O2
